US05006563
A solution of 10.0 g of 3-chlorobenzyl chloride in 100 ml of dry ether was added slowly to 2.26 g of magnesium in 75 ml of dry ether under nitrogen. The Grignard reagent was stirred at ambient temperature for one hour and then added to a solution of 4.5 g of 3-dimethylaminobenzonitrile in 150 ml of dry ether. After the addition a catalytic amount of CuBr was added and the solution stirred overnight. The reaction was quenched with 200 ml of ammonium chloride solution and diluted with water. The layers were separated and the aqueous phase extracted with ethyl acetate. The combined organic layers were dried (Na2SO4), filtered and evaporated. The residue was purified by flash chromatography (silica gel: 8:1 hexane-ethyl acetate) and then treated with ethereal HCl until acidic to wet litmus paper. The precipitate was collected and recrystallized from ethanol-ether to give 3.8 g of 2-(3-chlorophenyl)1-[3-(dimethylamino)phenyl]ethanone hydrochloride, m.p. 92°-94° C.

reactant | 3-chlorobenzyl chloride | 10.0 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
reactant | magnesium | 2.26 g | [Mg] | Mg
reactant | 3-dimethylaminobenzonitrile | 4.5 g | CN(C=1C=C(C#N)C=CC1)C | C9H10N2
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | ether | 75 ml | CCOCC | C4H10O
reactant | ether | 150 ml | CCOCC | C4H10O
product | 2-(3-chlorophenyl)1-[3-(dimethylamino)phenyl]ethanone hydrochloride | 3.8 g | Cl.ClC=1C=C(C=CC1)CC(=O)C1=CC(=CC=C1)N(C)C | InChI=1S/C16H16ClNO.ClH/c1-18(2)15-8-4-6-13(11-15)16(19)10-12-5-3-7-14(17)9-12;/h3-9,11H,10H2,1-2H3;1H
